US06297375B1
c) Benzyl-(5-{[2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl]-methyl-amino}-4-o-tolyl-pyridin-2-yl)-carbamic acid benzyl ester
To a solution of 1.075 g (2.5 mmol) benzyl-(5-methylamino-4-o-tolyl-pyridin-2-yl)-carbamic acid benzyl ester in 10 ml dichloromethane and 1 ml N-ethyldiisopropylamine was added dropwise at 0° C. a solution of 1.15 g (3.5 mmol) 2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionic acid chloride in 2 ml dichloromethane and the mixture was stirred for 3 h at room temperature. The solution was washed with water (20 ml), saturated aqueous sodium hydrogencarbonate solution (20 ml) and brine (20 ml), dried (magnesium sulfate) and evaporated. Chromatography of the residue afforded 1.15 g (62%) of the title compound as a yellow oil.

reactant | benzyl-(5-methylamino-4-o-tolyl-pyridin-2-yl)-carbamic acid benzyl ester | 2.5 mmol, 1.075 g | C(C1=CC=CC=C1)OC(N(C1=NC=C(C(=C1)C1=C(C=CC=C1)C)NC)CC1=CC=CC=C1)=O | C28H27N3O2
reactant | 2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionic acid chloride | 3.5 mmol, 1.15 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)Cl)(C)C)(F)F | C12H9ClF6O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | N-ethyldiisopropylamine | 1 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | Benzyl-(5-{[2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl]-methyl-amino}-4-o-tolyl-pyridin-2-yl)-carbamic acid benzyl ester | 1.15 g, 62% | C(C1=CC=CC=C1)OC(N(C1=NC=C(C(=C1)C1=C(C=CC=C1)C)N(C)C(C(C)(C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)CC1=CC=CC=C1)=O | C40H35F6N3O3
